US05580981
1-hydroxy-4-t-butyl-7-azabenzotriazole.
The above-identified compound is prepared by reacting 2-nitro-3-methoxy-4-t-butylpyridine with hydrazine in accordance with the procedure described in Example 1.

reactant | 2-nitro-3-methoxy-4-t-butylpyridine | [N+](=O)([O-])C1=NC=CC(=C1OC)C(C)(C)C | C10H14N2O3
reactant | hydrazine | NN | H4N2
product | 1-hydroxy-4-t-butyl-7-azabenzotriazole | ON1N=NC2=C1N=CC=C2C(C)(C)C | C9H12N4O
